Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
EGD on ___
 
History of Present Illness:
___ male w/PMHx prior cocaine use (last 2 mths ago), HTN, HL, 
hepatic steatosis, obesity, and a hiatal hernia at ___ ___ 
years ago status post surgical repair, now presenting with 
approximately 1.5 months of intermittent
bilateral chest tightness (not pain), "catching breath when I
breathe in," with nausea and dry heaves but no emesis, increased
burping, occurring as frequently as every hour or two, and worse 
after eating and after drinking EtOH. He drinks 1x a week, and 
involves a six-pack of beer and two shots of bourbon).  He 
actually gets on the treadmill at times when he develops these 
symptoms to try to get them to resolve. He has experienced some 
relief with Mylanta, and lorazepam once the night prior to 
admission.  He tried OTC ranitidine 1 tab bid for a week with no 
relief. 

He complained of heart palpitations, intermittent dyspnea. Seen 
for this at ___ emergency room in ___. 
Stress echocardiogram
was normal.

on ___ he went to ___'s ED in the morning, they
checked an ECG which looked ok, told him they needed his bed, 
and
so he left.  After getting home he states "I started to get a
panic attack, it just felt helpless" and so he went back to ___
(his sister is a ___ there).  They performed a CT scan, which
showed a "paralyzed diaphragm."  He was then referred to ___.

In the ___ ED: Vitals were notable for a heart rate of 87-95,
normal blood pressure and temperature, respirations ___, O2
saturation 95-97% on room air.  Per the nursing notes he did
complain of shortness of breath in addition to the chest
pressure.  ECGs were performed showing sinus rhythm with PACs,
and nonspecific T wave abnormalities in the anterior leads
(V3-V6), troponins were negative x2.  Other lab testing showed
only mild thrombocytopenia, 142, slightly elevated ALT at 43.  
He
was given lorazepam and aspirin.  A chest x-ray was performed
showing no signs of pneumonia or pneumothorax, but a nonspecific
elevation of the left hemidiaphragm.  Chest fluoroscopy was
performed showing no evidence of phrenic nerve paralysis.  He 
was
given Mylanta with some improvement in his symptoms.

 
Past Medical History:
#Prior cocaine use, last 2 mths ago
#Hypertension
#Hyperlipidemia -- ___ TChol 190, HDL 33, ___ 218, LDL 123
#Hepatic steatosis -- ___ AST 23, ALT 38
#Obesity -- ___ Height 70.5in, Weight 268lbs, BMI 37.9
#Mild thrombocytopenia
#Varicose veins of lower extremity
#Paresthesia of foot
#Dupuytren's contracture
#Motorcycle accident in college (___) leading to skull fracture
and microhemorrage, but no long-term sequelae
#Concussion injuries from playing hockey

 
Social History:
___
Family History:
father with open heart surgery for aortic issue,
grandfathers with pacers
 
Physical Exam:
AVFSS
Lines/tubes: PIV
Gen: obese middle aged man lying in bed, alert, cooperative, NAD
HEENT: anicteric, MMM, PERRL, EOMI
Neck: supple
Chest: equal chest rise, CTAB posteriorly, no WOB or cough
Cardiovasc: RRR, no m/r/g
Abd: obese, soft, NTND, well healed laparoscopic surgery scars
Extr: WWP, no edema
Skin: no rashes on limited examination
Neuro: CN II-XII intact (IX and X not specifically tested),
strength ___ throughout, sensation to light touch intact
throughout, reflexes symmetric in upper and lower
Psych: normal affect

 
Pertinent Results:
___ 06:10AM BLOOD WBC: 6.7 RBC: 4.40* Hgb: 14.5 Hct: 42.7
MCV: 97 MCH: 33.0* MCHC: 34.0 RDW: 12.1 RDWSD: 42.___* 

___ 06:10AM BLOOD Glucose: 88 UreaN: 14 Creat: 0.8 Na: 143
K: 4.4 Cl: 103 HCO3: 28 AnGap: 12 

___ CT Chest at ___ -- elevation of the L hemidiaphragm, 
new
compared to prior, "possibly related to phrenic nerve injury 
from
prior gastrointestinal surgery. No acute findings in the chest."

___ CT A/P at ___ -- "status post gastric surgery.  There 
is
mild thickening of the gastric mucosa which may represent
gastritis."

ECG -- QRS 102, "Sinus rhythm with PACs, Nonspecific T
abnormalities, anterior leads"

___ CXR -- IMPRESSION:  1. No focal consolidations
identified to suggest pneumonia.  No pneumothorax. 2. 
Nonspecific
elevation of the left hemidiaphragm.

___ Chest flurosocopy -- IMPRESSION: 1. No evidence of
phrenic nerve paralysis.

___ EGD
normal mucosa in esophagus, stomach and duodenum
 
Brief Hospital Course:
___ male w/PMHx prior cocaine use (he states last 2 mths ago),
HTN, HL, hepatic steatosis, obesity, and a hiatal hernia status
post surgical repair ___ prior, now presenting with
approximately 1.5 months of intermittent bilateral chest
tightness (not pain), "catching breath when I breathe in," with
nausea and dry heaves but no emesis, increased burping, 
occurring
as frequently as every hour or two.

Potential etiologies of his current presentation include
gastritis, esophagitis, or PUD in the setting of increased pain
with eating or carbonated beverages; distal esophageal stricture
in the setting of his prior surgery, increased belching;
esophageal spasm given his chest tightness. 

PLAN by PROBLEMS

#Chest Tightness 
#Shortness of breath
- The patient does not have cardiac chest pain, has received a
full workup for coronary disease (including ECGs, troponins, and
OSH stress test)
- the patient has no risk factors, or signs/symptoms for PE, and
D-dimer or CTA testing are not indicated
-the patient's symptoms do fit with GERD given relief with
burping and worsening with food intake/etoh -- check H. pylori
antigen, and start omeprazole 40mg daily, and PRN tums and
Mylanta. He may benefit from GI follow-up for pH probe testing
- Chest tightness also fits with ___
- ___ seems to have some anxiety associated with his symptoms, as
he (without prompting) used the terms "panic attack" and
"hyperventilating" when describing his symptoms -- for now would
rather avoid benzodiazepine medication for this if possible 
-encourage further moderating of EtOH 
- GI consultation for possible EGD on ___. EGD showed normal 
mucosa in esophagus, stomach and duodenum. Biopsies were taken. 
Recommend PPI and simethicone. If symptoms continue will need to 
follow up as outpatient for consideration of manometry. 

#Prior cocaine use on at least one occasion
-check UTox - not collected
- illicit drug use would explain many of his symptoms

#Hypertension
-continue home atenolol

#Hyperlipidemia -- ___ TChol 190, HDL 33, ___ 218, LDL 123
#Hepatic steatosis -- ___ AST 23, ALT 38
#Obesity -- ___ Height 70.5in, Weight 268lbs, BMI 37.9
-encourage weight loss

#Mild thrombocytopenia
___ 12:46PM BLOOD Plt Ct: 142* 
-attributed to the above issues, was present on outpatient labs
on ___, recheck in the morning -- wonder if it could be 
related
to EtOH, or illicit drug usage?

OUTSTANDING ISSUES
[ ] EGD showed normal mucosa in esophagus, stomach and duodenum. 
Biopsies were taken. Recommend PPI and simethicone. If symptoms 
continue will need to follow up as outpatient for consideration 
of manometry. 
[ ] Encourage weight loss, alcohol and cocaine cessation

>30 min spent on discharge planning for this complex case. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
NEW MEDICATIONS:
omeprazole
simethicone

Keep taking: 
atenolol 25 mg po daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain of unclear etiology, likely dyspepsia
 
Discharge Condition:
Stable
 
Discharge Instructions:
Dear Mr. ___,
You were evaluated for chest pain and shortness of breath.  We 
did several tests and found that your heart and lungs are 
working normally and you do not have any evidence of diaphragm 
paralysis.  We also did an upper endoscopy which showed that the 
mucosa in your stomach, esophagus and duodenum are normal.  The 
gastroenterologist who performed the procedure took a biopsy 
while doing the endoscopy and the results will be available at 
your outpatient visit.  If your symptoms continue while you are 
there we should discuss whether further testing would be 
beneficial.  In the meantime we have prescribed an acid reflux 
medication called omeprazole, as well as a gas medication called 
simethicone.

Thank you for entrusting your care with us,
Your ___ team
 
Followup Instructions:
___